US07220862B2
(R)-3-(2-Oxo-2,3-dihydro-1H-indol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid methyl ester
A solution of phosgene in toluene (2M, 0.158 mL, 0.30 mmol) was added to a vigorously stirred mixture of (R)-2-amino-3-(2-oxo-2,3-dihydro-1H-indol-5-yl)-propionic acid methyl ester (70 mg, 0.25 mmol) in methylene chloride (15 mL) and saturated sodium bicarbonate (7.5 mL). After the mixture was stirred at room temperature for 30 min, 3-piperidin-4-yl-3,4-dihydro-1H-quinazolin-2-one (58 mg, 0.25 mmol) was added. The resulting mixture was stirred at room temperature for 1.5 h, diluted with ethyl acetate, and washed with 0.25 N hydrochloric acid that had been saturated with solid sodium chloride. The organic layers were dried over sodium sulfate. After filtration, solvents were removed to afford the title compound as a tan viscous oil. LC/MS: tR=2.01 min, 492.10 (MH)+.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 0.30 mmol, 2M, 0.158 mL | C1(=CC=CC=C1)C | C7H8
reactant | (R)-2-amino-3-(2-oxo-2,3-dihydro-1H-indol-5-yl)-propionic acid methyl ester | 0.25 mmol, 70 mg | COC([C@@H](CC=1C=C2CC(NC2=CC1)=O)N)=O | C12H14N2O3
reactant | 3-piperidin-4-yl-3,4-dihydro-1H-quinazolin-2-one | 0.25 mmol, 58 mg | N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C13H17N3O
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | sodium bicarbonate | 7.5 mL | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-3-(2-Oxo-2,3-dihydro-1H-indol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid methyl ester | COC([C@@H](CC=1C=C2CC(NC2=CC1)=O)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C26H29N5O5
